US04666502
N-(2-carbomethoxy-3,5-dimethyl-thien-4-yl)-chloroacetamide
To 12.25 g (0.066 mol) of methyl 3,5-dimethyl-4-aminothiophene-2-carboxylate, 9.1 g (0.066 mol) of K2CO3, 25 ml of water and 150 ml of methylene chloride are added without cooling 7.5 g (0.066 mol) of chloroacetyl chloride.

reactant | methyl 3,5-dimethyl-4-aminothiophene-2-carboxylate | 0.066 mol, 12.25 g | CC1=C(SC(=C1N)C)C(=O)OC | C8H11NO2S
reactant | K2CO3 | 0.066 mol, 9.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 25 ml | O | H2O
reactant | chloroacetyl chloride | 0.066 mol, 7.5 g | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | 150 ml | C(Cl)Cl | CH2Cl2
product | N-(2-carbomethoxy-3,5-dimethyl-thien-4-yl)-chloroacetamide | C(=O)(OC)C=1SC(=C(C1C)NC(CCl)=O)C | C10H12ClNO3S
